US06579879B2
Step C: 3-Methoxy-6-(5-fluoro-3-methyl-benzofuran-2-sulfonyl)-pyridazine.
n-Butyl lithium (2.5 M in hexane, 11 mmol, 4.83 mL) was added dropwise over 15 minutes to a solution of 5-fluoro-3-methyl benzofuran (11 mmol, 1.65 mg) in THF (20 mL) cooled to −78° C. To this was added 3-fluorosulfonyl-6-methoxy-pyridazine (11 mmol, 2.11 g) and stirred for 30 minutes. The reaction mixture was allowed to come to room temperature overnight and was then quenched with EtOAc (40 mL) and H2O (10 mL). The organic portion was collected, dried, filtered and the filtrate was evaporated to dryness to obtain a crude product, which was purified by silica gel chromatography (eluent: hexanes:EtOAc::4:1) to obtain the desired product: 3-methoxy-6-(5-fluoro-3-methyl-benzofuran-2-sulfonyl)-pyridazine (22%, 781 mg).

reactant | n-Butyl lithium | 11 mmol, 2.5 M, 4.83 mL | C(CCC)[Li]
reactant | 5-fluoro-3-methyl benzofuran | 11 mmol, 1.65 mg | FC=1C=CC2=C(C(=CO2)C)C1 | C9H7FO
reactant | 3-fluorosulfonyl-6-methoxy-pyridazine | 11 mmol, 2.11 g | FS(=O)(=O)C=1N=NC(=CC1)OC | C5H5FN2O3S
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-Methoxy-6-(5-fluoro-3-methyl-benzofuran-2-sulfonyl)-pyridazine | COC=1N=NC(=CC1)S(=O)(=O)C=1OC2=C(C1C)C=C(C=C2)F | C14H11FN2O4S
